US03970653
Preparation of Trisodium α-Hydroxyethoxy-β-Sulfosuccinate
Sulfomaleic anhydride (20 gm) is mixed with 37.2 gm (0.6 mole) of ethylene glycol and heated at 80°C for 4 hours. A solution of 16 gm (0.4 mole) of sodium hydroxide in 75 ml of water is then added and the mixture heated at 80°C for 4 hours. The mixture is then mixed with acetone to precipitate trisodium α-hydroxyethoxy-β-sulfosuccinate, which is purified by repeated extractions with hot acetone to remove all ethylene glycol and water followed by filtration and drying in an oven.

reactant | Sulfomaleic anhydride | 20 gm | S(=O)(=O)(O)/C=1/C(=O)OC(\C1)=O | C4H2O6S
reactant | ethylene glycol | 0.6 mole, 37.2 gm | C(CO)O | C2H6O2
reactant | sodium hydroxide | 0.4 mole, 16 gm | [OH-].[Na+]
reactant | acetone | CC(=O)C | C3H6O
solvent | water | 75 ml | O | H2O
product | Trisodium α-Hydroxyethoxy-β-Sulfosuccinate | OC(C)OC(C(=O)[O-])C(C(=O)[O-])S(=O)(=O)O.[Na+].[Na+].[Na+] | InChI=1S/C6H10O9S.3Na/c1-2(7)15-3(5(8)9)4(6(10)11)16(12,13)14;;;/h2-4,7H,1H3,(H,8,9)(H,10,11)(H,12,13,14);;;/q;3*+1/p-2
